US07858640B2
[7-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yl]acetic Acid Methyl Ester
A mixture of trifluoromethanesulfonic acid 7-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yl ester and trifluoromethanesulfonic acid 5-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-7-yl ester (0.86 g), tert-butyl-(1-methoxyvinyloxy)-dimethyl silane (2.0 mL), sodium acetate (0.18 g), bis(dibenzylideneacetone) palladium (0.05 g) and 1,1′-bis(diphenylphospino) ferrocene (0) (0.05 g) in N,N-dimethylformamide (11.0 mL) was heated by microwave irradiation at 120° C. for 15 minutes. The mixture was diluted with ethyl acetate and this solution was washed with saturated aqueous ammonium chloride solution and saturated aqueous sodium chloride solution and then dried over-magnesium sulfate. The solvent was removed under reduced pressure and purification of the residue by column chromatography on silica gel, eluting with a mixture of dichloromethane, ethyl acetate and pentane (4:0:1 to 1:0:0 to 50:1:0 to 25:1:0 to 12.5:1:0 by volume) gave title compound as a honey coloured gum, 0.25 g.

reactant | trifluoromethanesulfonic acid 7-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yl ester | ClC1=CC(=C2C(=C(C(=NC2=C1)C)CC1=CC=C(C=C1)Cl)C)OS(=O)(=O)C(F)(F)F | C19H14Cl2F3NO3S
reactant | trifluoromethanesulfonic acid 5-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-7-yl ester | 0.86 g | ClC1=C2C(=C(C(=NC2=CC(=C1)OS(=O)(=O)C(F)(F)F)C)CC1=CC=C(C=C1)Cl)C | C19H14Cl2F3NO3S
reactant | tert-butyl-(1-methoxyvinyloxy)-dimethyl silane | 2.0 mL | C(C)(C)(C)[Si](C)(C)OC(=C)OC | C9H20O2Si
reactant | sodium acetate | 0.18 g | C(C)(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 11.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(dibenzylideneacetone) palladium | 0.05 g | [Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
catalyst | 1,1′-bis(diphenylphospino) ferrocene | 0.05 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | [7-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yl]acetic Acid Methyl Ester | COC(CC1=C2C(=C(C(=NC2=CC(=C1)Cl)C)CC1=CC=C(C=C1)Cl)C)=O | C21H19Cl2NO2
